data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_22656_0,[C:1]([C:2]([N:5]([C:3]([H:14])([H:15])[H:16])[O:7][H:8])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:6]([H:10])[H:11])[H:9]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([O:7][H:8])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[H:9],72.49633000001893
MR_484977_1,[C:1]1(/[C:6](=[C:7](/[C:4]([H:17])([H:18])[H:19])[O:9][H:10])[N:8]([H:13])[H:14])([H:11])[C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[C:3]1([H:15])[H:16]>>[C:1]1([H:11])=[C:6]([N:8]([H:13])[H:14])[C:7]([C:4]([H:17])([H:18])[H:19])([O:9][H:10])[C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[C:3]1([H:15])[H:16],62.15575750001648
MR_604296_0,[C:1]([C:2](=[C:3]([H:12])[H:13])[N:6][C:7][N:5][O:4][H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:2]([C:3]([H:12])[H:13])=[C:7]1/[N:5]([O:4][H:8])[N:6]1)([H:9])([H:10])[H:11],68.12704749999284
MR_596973_1,[C@:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:8][H:10])([N:6]([H:12])[H:13])([O:7][H:9])[H:11]>>[C:1](=[C:5](\[C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([O:7][H:9])[O:8][H:10])(\[N:6]([H:12])[H:13])[H:11],41.23867250000089
MR_135559_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])=[O:7])([O:6][H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:5]1([C:3]([H:14])([H:15])[H:16])[C:4](=[O:7])[O:8]1)([O:6][H:9])[H:10],60.1176374999902
MR_105661_0,[N:1]([C:2]([O:4][H:7])=[O:5])([O:3][H:6])[H:8]>>[N:1](=[C:2]([O:4][H:7])[O:5][H:8])[O:3][H:6],49.33718749999258
MR_476454_1,[C:1]1(=[C:6]([H:15])[H:16])[C@:3]([C@@:5]([N:2]([H:9])[H:10])(/[C:4](=[N:8]/[H:11])[H:13])[H:14])([H:12])[O:7]1>>[C:1](/[C:4](=[N:8]/[H:11])[H:13])(=[C:6]([H:15])[H:16])[O:7]/[C:3](=[C:5](/[N:2]([H:9])[H:10])[H:14])[H:12],55.353030000034806
MR_411332_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3](=[N:8]\[H:10])[H:11])(/[N:6]=[N:7]/[C:4](=[C:5]([H:16])[H:17])[H:12])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[N:6]\[N:7](/[C:3](=[N:8]\[H:10])[H:11])[C:4](=[C:5]([H:16])[H:17])[H:12])[H:9],56.65697499998856
MR_494377_0,[C:1]([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:8])(/[N:7]=[C:4](/[N:3]([H:10])[H:11])[H:12])[H:9]>>[C:1](\[O:6][H:8])(=[N:7]/[C:4]([N:3]([H:10])[H:11])([O:5][C:2]([H:13])([H:14])[H:15])[H:12])[H:9],40.85652500003832
MR_320574_1,[C:1](/[C:4]([N:3]([C:7](=[O:8])[H:12])[H:9])=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:4](=[N:3]/[H:9])[C:5]([C:2]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])[C:7](=[O:8])[H:12])([H:13])([H:14])[H:15],56.90860249999531
MR_488299_1,[C@:1]([C:2]([O:6][H:10])([H:12])[H:13])([C:3]([C:4](=[O:8])[H:14])=[O:7])([O:5][H:9])[H:11]>>[C@:1]([C:3]([C:2]([O:6][H:10])([H:12])[H:13])=[O:7])([C:4](=[O:8])[H:14])([O:5][H:9])[H:11],53.97817750001039
MR_407029_2,[C:1](/[C:4]([N:5]([H:11])[H:12])=[N:8]/[C:3]([N:2]([O:7][H:9])[H:10])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:4](=[N:5]\[H:12])/[N:8]=[C:3](/[N:2]([O:7][H:9])[H:10])[C:6]([H:11])([H:16])[H:17])([H:13])([H:14])[H:15],23.833704999999696
MR_231855_0,[C:1]([C:6]([C:4]([C:5]([C:7]([C:2]([H:20])([H:21])[H:25])[C:3]([H:22])([H:23])[H:24])[N:9]([H:13])[H:14])[N:8]([H:11])[H:12])[N:10]([H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C@:6]1([N:10]([H:15])[H:16])[C:4]([N:8]([H:11])[H:12])=[C:5]([N:9]([H:13])[H:14])[C:7]1([C:2]([H:20])([H:21])[H:25])[C:3]([H:22])([H:23])[H:24])([H:17])([H:18])[H:19],42.86703499999163
MR_4587_1,[C:1]1([C:4]([H:10])([H:11])[H:14])([C:5]([H:12])([H:13])[H:15])[C:2]([H:6])([H:7])[C:3]1([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:8])[H:9])[H:6])([C:4]([H:10])([H:11])[H:14])([C:5]([H:12])([H:13])[H:15])[H:7],72.0790425000024
MR_561546_2,[N:1]([C:2]([C:4](=[O:7])[H:11])=[O:6])([N:3]([H:9])[H:10])[O:5][H:8]>>[N:1]([N:3]([H:9])[H:10])([C:4]([C:2](=[O:6])[H:11])=[O:7])[O:5][H:8],64.45366250002891
MR_298978_1,[C:1]([C:2]([C:4]([H:17])([H:18])[H:22])([C:5]([H:19])([H:20])[H:21])[H:10])([N:6]([H:11])[H:12])(/[C:7](=[N:8]/[C:3]([H:14])([H:15])[H:16])[H:13])[H:9]>>[C:1](=[N:6]/[H:12])(\[C:7]([C:2]([C:4]([H:17])([H:18])[H:22])([C:5]([H:19])([H:20])[H:21])[H:10])([N:8]([C:3]([H:14])([H:15])[H:16])[H:11])[H:13])[H:9],53.91542749999047
MR_220750_1,[C@:1]([C:4]([H:17])([H:18])[H:19])([C:5]([O:7][C:3]([H:14])([H:15])[H:16])=[O:9])([O:6][C:2]([H:11])([H:12])[H:13])[O:8][H:10]>>[C@@:1]([C:4]([H:17])([H:18])[H:19])([C:5]([O:6][C:2]([H:11])([H:12])[H:13])=[O:9])([O:7][C:3]([H:14])([H:15])[H:16])[O:8][H:10],64.46683999999564
MR_475010_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([O:6][H:7])[H:8])([N:4]([H:10])[H:11])[N:5]([H:9])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:4]([H:10])[H:11])[H:8])([N:5]([H:9])[H:12])[O:6][H:7],64.0646125000481
MR_62393_1,[C:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][C:2]([H:13])([H:14])[H:15]>>[C:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])([C:5](=[C:6]([H:16])[H:17])[O:7][C:2]([H:13])([H:14])[H:15])[H:12],65.11191000000778
